US04954509
EXAMPLE 33 1-(pyrrolidin-1-yl)methyl-2-(4-trifluoromethylphenyl)acetyl5-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
750 mg (3.05 mmoles) of 1-(pyrrolidin-1-yl)methyl-5-methoxy1,2,3,4-tetrahydroisoquinoline were dissolved in 10 ml of dry chloroform. 810 mg (3.64 mmoles) of 4-trifluoromethylphenyl acetyl chloride, dissolved in 10 ml of chloroform, were added dropwise to the solution at 0° C. The reaction mixture was allowed to reach room temperature and left overnight.

reactant | 1-(pyrrolidin-1-yl)methyl-5-methoxy1,2,3,4-tetrahydroisoquinoline | 3.05 mmoles, 750 mg | N1(CCCC1)CC1NCCC2=C(C=CC=C12)OC | C15H22N2O
reactant | 4-trifluoromethylphenyl acetyl chloride | 3.64 mmoles, 810 mg | FC(C1=CC=C(C=C1)CC(=O)Cl)(F)F | C9H6ClF3O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(pyrrolidin-1-yl)methyl-2-(4-trifluoromethylphenyl)acetyl5-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.N1(CCCC1)CC1(NCCC2=C(C=CC=C12)OC)C(CC1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C24H27F3N2O2.ClH/c1-31-21-6-4-5-20-19(21)11-12-28-23(20,16-29-13-2-3-14-29)22(30)15-17-7-9-18(10-8-17)24(25,26)27;/h4-10,28H,2-3,11-16H2,1H3;1H
